US04459403
To a solution of 1.0 g (0.0075 mole) of 6H-1,2,4-oxadiazin-3(2H)-one-5(4H)-thione in 50 ml of freshly distilled dry dioxane is added 0.52 g (0.0077 mole) of imidazole. After stirring at room temperature for 17 hours, the solution is filtered, washed with chloroform and dried to give a yield of 0.7 g (56 percent) of 5-(1H-imidazol-1-yl)-6H-1,2,4-oxadiazin-3(2H)-one.

reactant | 6H-1,2,4-oxadiazin-3(2H)-one-5(4H)-thione | 0.0075 mole, 1.0 g | O1NC(NC(C1)=S)=O | C3H4N2O2S
reactant | imidazole | 0.0077 mole, 0.52 g | N1C=NC=C1 | C3H4N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-(1H-imidazol-1-yl)-6H-1,2,4-oxadiazin-3(2H)-one | yield of 0.7 g, 56 percent | N1(C=NC=C1)C1=NC(NOC1)=O | C6H6N4O2
